US08486979B2
5-(3-fluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-fluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.43-7.51 (m, J=8.5, 8.5, 2.6, 1.0 Hz, 1 H), 7.61-7.72 (m, 2 H), 7.98 (ddd, J=9.1, 2.6, 1.4 Hz, 1 H), 8.08 (ddd, J=8.0, 1.3, 1.0 Hz, 1 H), 8.56 (dt, J=8.0, 1.9 Hz, 1 H), 8.74 (dd, J=5.2, 1.6 Hz, 1 H), 9.30 (dd, J=2.0, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 242 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-fluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
reactant | NH3 | N | H3N
product | 5-(3-fluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | FC=1C=C(C=CC1)C1=NC(=NO1)C=1C=NC=CC1 | C13H8FN3O
